US08378104B2
Step B: 2-(methylsulfanyl)-7(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole
A solution of 7-bromo-2-(methylsulfanyl)-1,3-benzothiazole (91 mg, 0.35 mmol), bis(pinacolato)diboron (455 mg, 1.79 mmol), potassium acetate (246 mg, 2.51 mmol) and 1,1-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (59 mg, 0.072 mmol) in 1,4-dioxane (10 mL) was heated to reflux overnight. EtOAc was added to the mixture and the solution was filtered. The organic fraction was washed with water and brine. The crude mixture was purified by ISCO chromatography (0 to 10% EtOAc:heptane) to afford 14 mg (13%) of the title compound. MS (ESI): 308.43 [M+H]+; HPLC tR=1.64 min (HPLC: Anayltical—2 min).

reactant | 7-bromo-2-(methylsulfanyl)-1,3-benzothiazole | 0.35 mmol, 91 mg | BrC1=CC=CC=2N=C(SC21)SC | C8H6BrNS2
reactant | bis(pinacolato)diboron | 1.79 mmol, 455 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.51 mmol, 246 mg | C(C)(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(methylsulfanyl)-7(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole | 14 mg, 13% | CSC=1SC2=C(N1)C=CC=C2B2OC(C(O2)(C)C)(C)C | C14H18BNO2S2
